US05502253
reacting (S)-2-chloro-cyclohex-2-enylamine with phthalimido-L-phenyalanine derivative to give (S)-N-(2-chloro-cyclohex-2-enyl)-2- 2(S)-1,3-dihydro-1,3-dioxo-isoindol-2-yl)-3-phenyl-propionamide;

reactant | (S)-2-chloro-cyclohex-2-enylamine | ClC=1[C@H](CCCC1)N | C6H10ClN
reactant | phthalimido-L-phenyalanine | C1(C=2C(C(N1N[C@@H](CC1=CC=CC=C1)C(=O)O)=O)=CC=CC2)=O | C17H14N2O4
product | 3-phenyl-propionamide | C1(=CC=CC=C1)CCC(=O)N | C9H11NO
